US06858651B2
To 0.99 g (2.7 mmol) trans-[4-(4-Diethylcarbamoyl-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 5 ml dioxane were added 7 ml 4M HCl in dioxane at 0° C. The solution was stirred at RT for 2 h, diluted with ether, and the precipitated solid was isolated. 0.83 g (quant.) trans-5-(4-Methylamino-cyclohexyl)-pentanoic acid diethylamide.hydrochloride were isolated as white solid, mp. 122° C., MS: 269 (MH+).

reactant | trans-[4-(4-Diethylcarbamoyl-butyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 2.7 mmol, 0.99 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCC(N(CC)CC)=O)=O | C21H40N2O3
reactant | HCl | 4M, 7 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | trans-5-(4-Methylamino-cyclohexyl)-pentanoic acid diethylamide.hydrochloride | 0.83 g | Cl.C(C)N(C(CCCC[C@@H]1CC[C@H](CC1)NC)=O)CC | InChI=1S/C16H32N2O.ClH/c1-4-18(5-2)16(19)9-7-6-8-14-10-12-15(17-3)13-11-14;/h14-15,17H,4-13H2,1-3H3;1H/t14-,15-;
